US08426540B2
Using 2-Aminophenol and 5-(3-(trifluoromethyl)phenyl)furan-2-carbaldehyde, 3.44 g of 2-{[5-(3-(trifluoromethyl)phenyl)furan-2-yl]methyleneamino}phenol were obtained as a yellow powder (yield 86%).

reactant | 2-Aminophenol | NC1=C(C=CC=C1)O | C6H7NO
reactant | 5-(3-(trifluoromethyl)phenyl)furan-2-carbaldehyde | FC(C=1C=C(C=CC1)C1=CC=C(O1)C=O)(F)F | C12H7F3O2
product | 2-{[5-(3-(trifluoromethyl)phenyl)furan-2-yl]methyleneamino}phenol | 3.44 g | FC(C=1C=C(C=CC1)C1=CC=C(O1)C=NC1=C(C=CC=C1)O)(F)F | C18H12F3NO2
